US04874775
N-[2-(4-chlorophenyl)ethyl]-N-(pyridin-3-ylmethyl)-methanesulfonamide
A 2.04 g. portion of 3-[2-(4-chlorophenyl)-ethylaminomethyl]pyridine was dissolved in 15 ml. of dichloromethane, and 1.74 g. of methanesulfonic anhydride was added. The mixture boiled briefly, and was then stirred at ambient temperature for several days. It was diluted with aqueous sodium bicarbonate and extracted with dichloromethane. The organic layer was washed with aqueous sodium bicarbonate, dried over magnesium sulfate and evaporated under vacuum. The residue was dissolved in ethyl acetate and chromatographed over silica gel, eluting with ethyl acetate. The product-containing fractions were evaporated under vacuum to obtain 0.78 g. of the desired product, m.p. 77°-78°.

reactant | 3-[2-(4-chlorophenyl)-ethylaminomethyl]pyridine | ClC1=CC=C(C=C1)CCNCC=1C=NC=CC1 | C14H15ClN2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-[2-(4-chlorophenyl)ethyl]-N-(pyridin-3-ylmethyl)-methanesulfonamide | ClC1=CC=C(C=C1)CCN(S(=O)(=O)C)CC=1C=NC=CC1 | C15H17ClN2O2S
